US09120823B2
To a mixture of 2-(3-ethylsulfanyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine (254 mg) and chloroform (10 ml) was added m-chloroperbenzoic acid (purity: not less than 65%) (266 mg) while ice-cooling. The mixture was heated to room temperature and then stirred for 0.5 hours. To the mixture were poured saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-ethane sulfinyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine (8 mg), which is hereinafter referred to as “the present compound 7”), and 2-(3-ethanesulfonyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine (235 mg), which is hereinafter referred to as “the present compound 8”.

reactant | 2-(3-ethylsulfanyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine | 254 mg | C(C)SC=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)(F)F)N1C | C16H13F5N4S
reactant | m-chloroperbenzoic acid | 266 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-ethane sulfinyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine | 8 mg | C(C)S(=O)C=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)(F)F)N1C | C16H13F5N4OS
